data/rdb19/train.csv
rxn,smiles,ea
4609,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],57.6744917287142
1424,[C:10]([O:11][C:12](=[O:13])[C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:17]([C:14]([C:12]([O:11][C:10]([H:20])([H:21])[H:22])=[O:13])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19])[H:7])[H:6],12.353845758363605
3305,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:8])([H:9])[H:23])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],34.73649463139009
2988,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],12.51120515249204
1893,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11]([O:12])[H:13]>>[H:7][O:11][H:13].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[O:12],63.641882280411664
532,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:1]([O:2][O:3][H:16])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10]=[O:11])[H:15])[H:14])([H:12])[H:13],21.19000058050733
2336,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[C:13]([H:23])([H:24])[H:25])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16],52.12142838936416
4664,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[C:22]1([H:30])[C:21]([H:29])[C:20]([H:28])=[C:19]([C:18](=[C:17]([H:25])[H:26])[H:27])[C:24]([H:32])=[C:23]1[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],23.094456854159944
1041,[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:14]([H:18])([H:19])[H:20].[O:15][C:16](=[C:17]([H:22])[H:23])[H:21],70.2470477562747
3259,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22](=[C:23]([H:24])[H:25])[N:26]([C:27](=[O:28])[H:34])[H:33])([H:29])([H:30])[H:31].[C:5]([H:15])([H:16])([H:17])[H:32],76.9746562775108
4471,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][H:27])[O:6][H:12])([H:7])([H:8])[H:9],33.86505052819848
5396,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1([C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:20])[H:21])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],24.701439898402896
